US06239151B1
A solution of 0.160 g of (E)-2(R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl]-4-phenyl-3-butenyl]-2′-(4-oxovaleryl)-2′-isobutyl-4-methylvalerohydrazide in 10 ml of ethanol was treated with 0.012 g of sodium borobydride. The mixture was stirred for 48 hours and then diluted with ethyl acetate and washed with water and saturated sodium chloride solution. Drying over anhydrous magnesium sulfate and evaporation gave 0.150 g of (E)-2(R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl]-4-phenyl-3-butenyl]-2′-(4(RS)-hydroxyvaleryl)-2′-isobutyl-4-methylvalerohydrazide in the form of a white foam.

reactant | (E)-2(R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl]-4-phenyl-3-butenyl]-2′-(4-oxovaleryl)-2′-isobutyl-4-methylvalerohydrazide | 0.160 g | O1C(CCCC1)ONC(=O)[C@@H](C\C=C\C1=CC=CC=C1)[C@H](C(=O)NN(CC(C)C)C(CCC(C)=O)=O)CC(C)C | C31H47N3O6
reactant | sodium | 0.012 g | [Na] | Na
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (E)-2(R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl]-4-phenyl-3-butenyl]-2′-(4(RS)-hydroxyvaleryl)-2′-isobutyl-4-methylvalerohydrazide | 0.150 g | O1C(CCCC1)ONC(=O)[C@@H](C\C=C\C1=CC=CC=C1)[C@H](C(=O)NN(CC(C)C)C(CCC(C)O)=O)CC(C)C | C31H49N3O6
